US08754226B2
(S)-Benzyl 4-(3-(6-(methylsulfonyl)pyridin-3-ylamino)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (0.23 g, 0.49 mmol) was dissolved in MeOH (5 mL) and cooled to 0° C. The material was purged with N2 by three vacuum pump/N2 balloon cycles. Palladium on carbon (10 wt. % dry basis, wet, Degussa type, 0.053 g, 0.49 mmol) was added and the system was purged with 1 atm H2 by three vacuum pump/H2 balloon cycles. The reaction continued to stir under H2 until the starting material was consumed. The mixture was filtered through GF/F paper and concentrated to give (S)-3-(6-(methylsulfonyl)pyridin-3-ylamino)-1-(piperidin-4-yl)pyrrolidin-2-one (0.17 g, 0.51 mmol, 100% yield).

reactant | (S)-Benzyl 4-(3-(6-(methylsulfonyl)pyridin-3-ylamino)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 0.49 mmol, 0.23 g | CS(=O)(=O)C1=CC=C(C=N1)N[C@@H]1C(N(CC1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O | C23H28N4O5S
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Palladium on carbon | 0.49 mmol, 0.053 g | [Pd] | Pd
product | (S)-3-(6-(methylsulfonyl)pyridin-3-ylamino)-1-(piperidin-4-yl)pyrrolidin-2-one | 0.51 mmol, 0.17 g, 100% yield | CS(=O)(=O)C1=CC=C(C=N1)N[C@@H]1C(N(CC1)C1CCNCC1)=O | C15H22N4O3S
